US03987047
3-Acetyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline 6-oxide was prepared analogous to Example 111 from 3-acetyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline and hydrogen peroxide.

reactant | 3-acetyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | C(C)(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C16H18N2O
reactant | hydrogen peroxide | OO | H2O2
product | 3-Acetyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline 6-oxide | Yield: 83.5% | C(C)(=O)N1CCC2=[N+](C=3C=CC=CC3C(=C2CC1)C)[O-] | C16H18N2O2
